US06022888
130 mg of potassium carbonate and 121 μl of diethyl sulfate were added to an acetonitrile solution containing 210 mg of (1S, 4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid described in Example 1 followed by heating and stirring for 1 hour at 70° C. The reaction mixture was then extracted with ethyl acetate. After washing the organic phase with dilute hydrochloric acid, saturated aqueous sodium bicarbonate and brine, it was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by silica gel chromatography to obtain a colorless oil from the hexane-ethyl acetate eluate in the form of (1S,4aS,6S,7R,7aR)-6,7-epoxy-1, 4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid ethylester (204 mg, yield: 88%). The physicochemical properties of this compound are described in Table 1, Compound No. 4.

reactant | potassium carbonate | 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl sulfate | 121 μl | S(=O)(=O)(OCC)OCC | C4H10O4S
reactant | acetonitrile | C(C)#N | C2H3N
reactant | (1S, 4aS,6S,7R,7aR)-6,7-epoxy-1,4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid | 210 mg | O1[C@H]2C[C@H]3[C@@H]([C@@H](OC=C3C(=O)O)OC(NC)=O)[C@]21C | C12H15NO6
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | (1S,4aS,6S,7R,7aR)-6,7-epoxy-1, 4a,5,6,7,7a-hexahydro-7-methyl-1-(methylcarbamoyloxy) cyclopenta [c]-pyrane-4-carboxylic acid ethylester | 204 mg, yield: 88% | C(C)OC(=O)C=1[C@@H]2[C@@H]([C@@H](OC1)OC(NC)=O)[C@@]1([C@H](C2)O1)C | C14H19NO6
